US05668137
Isobutyl N-(5-chloro-3-methoxypyrazin-2-yl)carbamate (3.34 g) was added to a stirred suspension of sodium hydride (60% dispersion in oil; 0.56 g) in dry N, N dimethylformamide (20 ml) at 0° C. The mixture was stirred at 0° C. for 1 hour and then a solution of 2-iodobenzenesulphonyl chloride (obtained as described in J Org Chem, 1977, 42, 3265) (4.68 g) was added. The mixture was stirred for 2 hours and then volatile material was removed by evaporation. The residue was dissolved in water (50 ml) and the solution was acidified with 20% aqueous citric acid and extracted with ethyl acetate (3×20 ml). The extracts were washed with water (25 ml) and saturated sodium chloride solution (25 ml) and dried (MgSO4). Volatile material was removed by evaporation and the residue was purified by gradient elution with 10-35% ethyl acetatesohexane through a silica gel Mega Bond Elut column to give N-(5-chloro-3-methoxypyrazin-2-yl)- N-(isobutoxycarbonyl)-2-iodobenzenesulphonamide (2.64 g); 1H NMR (d6 -DMSO): 0.67 (s, 6H), 1.65-1.8 (m, 1H), 3.9 (d, 2H), 4.0 (s, 3H), 3.9 (s, 3H), 7.4 (dd, 1H), 7.8 dd, 1H), 8.2 (d, 1H), 8.3 (d, 1H), 8.4 (s, 1H).

reactant | Isobutyl N-(5-chloro-3-methoxypyrazin-2-yl)carbamate | 3.34 g | ClC=1N=C(C(=NC1)NC(OCC(C)C)=O)OC | C10H14ClN3O3
reactant | sodium hydride | 0.56 g | [H-].[Na+]
reactant | 2-iodobenzenesulphonyl chloride | 4.68 g | IC1=C(C=CC=C1)S(=O)(=O)Cl | C6H4ClIO2S
solvent | N, N dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | N-(5-chloro-3-methoxypyrazin-2-yl)- N-(isobutoxycarbonyl)-2-iodobenzenesulphonamide | 2.64 g | ClC=1N=C(C(=NC1)N(S(=O)(=O)C1=C(C=CC=C1)I)C(=O)OCC(C)C)OC | C16H17ClIN3O5S
